US04568741
Under dry nitrogen, N-formyl piperidine (124 gm, 1.10 mol), rapidly stirring at -4° C., is treated dropwise over the course of 30 minutes with thionyl chloride (144 gm, 1.21 mol), the temperature being maintained below 0° C. with ice-methanol cooling. The resulting solution is warmed slowly to 56° C. over 80 minutes with the application of vacuum (at about 30 mm). A mixture of methylene chloride 10 ml and toluene (40 ml) is added, and the resulting slurry is concentrated to dryness (37° C., about 30 mm vacuum). This stripping procedure is repeated, and final concentration is accomplished by the application of higher (about 5 mm) vacuum (30°-42° C., 30 min), to yield solid N-(chloromethylene)-morpholinium chloride.

reactant | N-formyl piperidine | 1.10 mol, 124 gm | C(=O)N1CCCCC1 | C6H11NO
reactant | thionyl chloride | 1.21 mol, 144 gm | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(chloromethylene)-morpholinium chloride | [Cl-].ClC=[N+]1CCOCC1 | InChI=1S/C5H9ClNO.ClH/c6-5-7-1-3-8-4-2-7;/h5H,1-4H2;1H/q+1;/p-1
